US07790720B2
A solution of (2-{4-[2-(2-methylpyrrolidin-1-yl)ethoxy]phenyl}-1,3-oxazol-4-yl)acetic acid i53 (0.29 g, 0.87 mmol, 1 eq), piperidine (0.18 ml, 1.75 mmol, 2 eq) and triethylamine (0.36 ml, 3.6 mmol, 3 eq) in dichloromethane (20 ml) is cooled to 0° C. N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.42 g, 2.17 mmol, 2.5 eq) and 1-hydroxybenzotriazole (0.12 g, 0.87 mmol, 1 eq) are then added. The mixture is stirred 24 h at room temperature, and washed two times with a saturated solution of aqueous ammonium chloride. The organic layer is dried over magnesium sulfate, filtered and concentrated under vacuum. Purification by chromatography over silicagel (eluent: dichloromethane/methanol/ammonia 97/2.7/03) affords 0.15 g of 1-[(2-{4-[2-(2-methylpyrrolidin-1-yl)ethoxy]phenyl}-1,3-oxazol-4-yl)acetyl]piperidine i54.

reactant | (2-{4-[2-(2-methylpyrrolidin-1-yl)ethoxy]phenyl}-1,3-oxazol-4-yl)acetic acid | CC1N(CCC1)CCOC1=CC=C(C=C1)C=1OC=C(N1)CC(=O)O | C18H22N2O4
reactant | piperidine | 1.75 mmol, 0.18 ml, 2 eq | N1CCCCC1 | C5H11N
reactant | triethylamine | 3.6 mmol, 0.36 ml, 3 eq | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.17 mmol, 0.42 g, 2.5 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.87 mmol, 0.12 g, 1 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[(2-{4-[2-(2-methylpyrrolidin-1-yl)ethoxy]phenyl}-1,3-oxazol-4-yl)acetyl]piperidine | 0.15 g, Yield: 44% | CC1N(CCC1)CCOC1=CC=C(C=C1)C=1OC=C(N1)CC(=O)N1CCCCC1 | C23H31N3O3
